US07786114B2
The product is prepared by following the procedure described in example 52c, starting with 0.3 g of 3-[4-chloromethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridine and 0.253 g of 3-amino-1N-Boc-azetidine instead of the N-Boc-ethylenediamine used in example 52c. 0.203 g of tert-butyl 3-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}azetidine-1-carboxylate is obtained with the following characteristics:

reactant | 3-[4-chloromethyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridine | 0.3 g | ClCC1=C2C(=NC=C1)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)C)S(=O)(=O)C1=CC=C(C=C1)C | C25H23ClN4O4S
reactant | 3-amino-1N-Boc-azetidine | 0.253 g | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | tert-butyl 3-{[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amino}azetidine-1-carboxylate | 0.203 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNC1CN(C1)C(=O)OC(C)(C)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C33H38N6O6S
